US05618839
4-[[(5,6,7,8-Tetrahydro-5,5-dimethyl-8-oxo-2-naphthalenyl)amino]carbonyl]benzoic acid methyl ester (IXa)
A solution of monomethyl terephthalate (VIIIa) (2.86 g, 15.89 mmoles) in thionylchloride (50 mL) with 2 drops of N,N-dimethylformamide was allowed to stir at room temperature. The mixture became homogeneous within 30 minutes and was then concentrated in vacuo. The residue was then taken up in 30 mL of anhydrous pyridine and treated with 4,4-dimethyl-7-amino-1-tetralone (3.00 g, 15.9 mmoles). After 16 hours at room temperature 1N HCl was added to the mixture. It was extracted with ethyl acetate, washed with 1N HCl (4×200 mL) and washed with saturated sodium bicarbonate (2×200 mL). The organic phase was then separated, dried over magnesium sulfate, and concentrated in vacuo to give 5.07 g (Y: 91% ) of the title compound; 1H-NMR (CDCl3): δ8.27 (dd, J=8.7, 2.5 Hz, 1H), 8.19 (bs, 1H), 8.14 (d, J=8.4 Hz, 2H), 7.95 (d, J=8.4 Hz, 2H), 7.91 (d, J=2.5 Hz, 1H), 7.46 (d, J=8.7 Hz, 1H), 3.94 (s, 3H), 2.70 (t, J=7.0 Hz, 3H), 2.00 (t, J=7.0 Hz, 3H), 1.38 (s, 6H); MS (DCI) m/e: 352 (MH+).

reactant | monomethyl terephthalate | 15.89 mmoles, 2.86 g | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | 4,4-dimethyl-7-amino-1-tetralone | 15.9 mmoles, 3.00 g | CC1(CCC(C2=CC(=CC=C12)N)=O)C | C12H15NO
reactant | HCl | 1N | Cl | ClH
solvent | thionylchloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-[[(5,6,7,8-Tetrahydro-5,5-dimethyl-8-oxo-2-naphthalenyl)amino]carbonyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(=O)NC1=CC=2C(CCC(C2C=C1)(C)C)=O)=O | C21H21NO4
